US04839368
To a mixture of 6-chloro-2,3-dihydro-4(1H)-quinolinone (20 g), pyridine (26 g), and dioxane (200 ml) was added 2,4-dichlorobenzoylchloride (30 g) dropwise under cooling at 0° C. to 5° C with stirring. The mixture was allowed to react at room temperature for additional 3 hours. The reaction mixture was poured into 500 ml of water, then shaken with dichloromethane (1000 ml). The organic layer was washed once with 1 N HCl (100 ml), twice with water (200 ml each) then once with saturated aqueous NaCl solution (200 ml) and dried over anhydrous sodium sulfate. Dichloromethane was removed in vacuo and the residue was recrystallized with dichloromethane and n-hexane to obtain 6-chloro-1-(2,4-dichlorobenzoyl)-2,3-dihydro-4(1H)-quinolinone (yield 35 g) as white crystal.

reactant | 6-chloro-2,3-dihydro-4(1H)-quinolinone | 20 g | ClC=1C=C2C(CCNC2=CC1)=O | C9H8ClNO
reactant | pyridine | 26 g | N1=CC=CC=C1 | C5H5N
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | 2,4-dichlorobenzoylchloride | 30 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 6-chloro-1-(2,4-dichlorobenzoyl)-2,3-dihydro-4(1H)-quinolinone | yield 35 g | ClC=1C=C2C(CCN(C2=CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O)=O | C16H10Cl3NO2
